US07468375B2
Step 8: 1-(2,4-Difluorobenzyl)-N-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxamide.
To 1-(2,4-difluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid (0.15 g, 0.52 mmol) in DMF (10 mL) were added O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HATU; 0.20 g, 0.52 mmol), triethylamine (0.15 mL, 1.05 mmol), and hydroxylamine hydrochloride (0.036 g, 0.52 mmol). The resulting mixture was stirred for 16 hours at ambient temperature. It was quenched with water (30 mL) and extracted with ethyl acetate (3×30 mL). The combined organic extracts were washed with water (2×30 mL), dried over sodium sulfate, concentrated in vacuo and purified by preparative HPLC to provide the title compound as a white powder (0.075 g, 48% yield). 1H NMR (DMSO-d6) δ ppm 11.14 (s, 1H), 8.92 (s, 1H), 8.85 (s, 1H), 8.21 (s, 1H), 7.78 (s, 1H), 7.26-7.38 (m, 2H), 7.08 (t, 1H, J=8.3 Hz), 6.71 (d, 1H, J=3.0 Hz), 5.64 (s, 2H). LCMS (API-ES, M+H+): 304.1 HRMS (M+H): 304.0886; cal: 304.0898 with C15H12N3O2F2. HPLC: 98% purity.

reactant | 1-(2,4-difluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylic acid | 0.52 mmol, 0.15 g | FC1=C(CN2C=CC=3C2=CN=C(C3)C(=O)O)C=CC(=C1)F | C15H10F2N2O2
reactant | O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 0.52 mmol, 0.20 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethylamine | 1.05 mmol, 0.15 mL | C(C)N(CC)CC | C6H15N
reactant | hydroxylamine hydrochloride | 0.52 mmol, 0.036 g | Cl.NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(2,4-Difluorobenzyl)-N-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxamide | 0.075 g, 48% yield | FC1=C(CN2C=CC=3C2=CN=C(C3)C(=O)NO)C=CC(=C1)F | C15H11F2N3O2
